US06329389B1
N,N-Dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolineacetoamide
To the mixed solution of 2-oxo-1,2,3,4-tetrahydro-3-quinolineacetic acid (810 mg) in THF (10 ml) and acetonitrile (10 ml), WSC (1.15 g), HOBt (610 mg), dimethylamine hydrochloride (650 mg) and triethylamine (1.67 ml) were added subsequently, which was stirred at room temperature overnight. Water was added to the reaction mixture, which was extracted with a mixed solvent of ethyl acetate-THF (1:1). The organic layer was washed subsequently with 0.1N aqueous hydrochloric acid solution, a saturated aqueous sodium bicarbonate solution, and a saturated aqueous sodium chloride solution, then dried and concentrated to obtain the entitled compound (620 mg).

reactant | 2-oxo-1,2,3,4-tetrahydro-3-quinolineacetic acid | 810 mg | O=C1NC2=CC=CC=C2CC1CC(=O)O | C11H11NO3
reactant | WSC | 1.15 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 610 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | dimethylamine hydrochloride | 650 mg | Cl.CNC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
solvent | triethylamine | 1.67 ml | C(C)N(CC)CC | C6H15N
product | N,N-Dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolineacetoamide | 620 mg | CN(C(CC1C(NC2=CC=CC=C2C1)=O)=O)C | C13H16N2O2
